US07592463B2
1-[(1R, 2S)-2,4-Dimethylcyclohex-3-en-1-yl]-propan-1-one (Table 3, Entry 4):
Prepared according to general procedure B from ethyl vinyl ketone (59 μL, 0.59 mmol), trans-2-methyl-1,3-pentadiene (94 μL, 0.89 mmol), 70% aqueous perchloric acid (10.2 μL, 0.12 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (32 mg, 0.12 mmol) in ethanol (590 μL) for 4.5 days at −30° C. Purification by silica gel chromatography (9:1 pentane:ether) provided the title compound as a single diastereomer (as judged by GLC analysis) in 90% yield (90 mg, 0.54 mmol) and 90% ee. IR (film) 2964, 2937, 2874, 2833, 1711, 1452, 1377, 1343, 1227, 1195, 1123, 1038, 984.2, 886.0, 841.6 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.37 (m, 1H, CH═CCH3), 2.60 (m, 2H, CHCO and CHCH3), 2.50 (dq, J=17.4, 7.5 Hz, 1H, C(H)HCO), 2.37 (dq, J=17.4, 7.5 Hz, 1H, C(H)HCO), 1.94 (m, 2H, ═CCH2), 1.68 (m, 2H, CH2CH), 1.64 (s, 3H, CH3C═CH), 1.05 (dd, J=7.5, 7.5 Hz, 3H, CH2CH3), 0.76 (dd, J=6.9, 6.9 Hz, 3H, CH3CH); 13C NMR (75 MHz, CDCl3) δ 214.0, 133.7, 126.3, 50.5, 34.6, 31.7, 30.2, 23.8, 19.0, 16.8, 8.1. [α]D=+16.7 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (100° C., 23 psi); (1R, 2S) endo isomer tr=21.3 min, and (1S, 2R) endo isomer tr=20.4 min, exo isomers tr=15.4, 16.6 min.

reactant | ethyl vinyl ketone | 0.59 mmol, 59 μL | C(=C)C(=O)CC | C5H8O
reactant | trans-2-methyl-1,3-pentadiene | 0.89 mmol, 94 μL | CC(=C)\C=C\C | C6H10
reactant | perchloric acid | 0.12 mmol, 10.2 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.12 mmol, 32 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | ethanol | 590 μL | C(C)O | C2H6O
product | 1-[(1R, 2S)-2,4-Dimethylcyclohex-3-en-1-yl]-propan-1-one | 90% yield | C[C@@H]1[C@@H](CCC(=C1)C)C(CC)=O | C11H18O
